US07449475B2
1′-Benzyl-5-chloro-3H-spiro[1-benzofuran-2,3′-pyrrolidine]
To a suspension of sodium hydride (NaH) (55%, 612 mg, 14.0 mmol) in toluene (10 mL) was added a solution of 1-benzyl-3-(5-chloro-2-fluorobenzyl)pyrrolidin-3-ol (1.3 g, 4.06 mmol) in toluene (20 mL) and the reaction mixture was kept on stirring at reflux, after 5 minutes dimethylformamide (10 mL) was added and the reaction mixture was refluxed for 90 minutes, cooled to room temperature, water (20 mL) was added and extracted with ethyl acetate. The organic layer was dried over sodium sulphate (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash chromatography (0-1.5% methanol in dichloromethane, 0.2% ammonium hydroxide, NH4OH) to give the subtitled compound (560 mg).

reactant | sodium hydride | 14.0 mmol, 612 mg | [H-].[Na+]
reactant | 1-benzyl-3-(5-chloro-2-fluorobenzyl)pyrrolidin-3-ol | 4.06 mmol, 1.3 g | C(C1=CC=CC=C1)N1CC(CC1)(O)CC1=C(C=CC(=C1)Cl)F | C18H19ClFNO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | water | 20 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-Benzyl-5-chloro-3H-spiro[1-benzofuran-2,3′-pyrrolidine] | 560 mg | C(C1=CC=CC=C1)N1CC2(CC1)OC1=C(C2)C=C(C=C1)Cl | C18H18ClNO
